US08349824B2
A mixture of N2,N2-dimethyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine (700 mg, 3.95 mmol), 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid (812 mg, 4.1 mmol), propylphosphonic anhydride (50% in ethyl acetate, 5.82 ml, 9.88 mmol) and diisopropylethylamine (2.07 ml, 11.9 mmol) in tetrahydrofurane (40 ml) is refluxed for 18 hours under nitrogen atmosphere. The solvent is evaporated and the residue triturated with sat. aqueous sodium hydrogencarbonate solution. The solid is collected by filtration, washed with water and dried affording ethyl 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate (1.26 g, 89.3%) as a light brown solid. Mp.: 193-5° C. MS: m/z=358.4 (M+H+).

reactant | N2,N2-dimethyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine | 3.95 mmol, 700 mg | CN(C1=NN2C(C=C(C=C2)N)=N1)C | C8H11N5
reactant | 4-(ethoxycarbonyl)-1-methyl-1H-pyrazole-5-carboxylic acid | 4.1 mmol, 812 mg | C(C)OC(=O)C=1C=NN(C1C(=O)O)C | C8H10N2O4
reactant | propylphosphonic anhydride | 9.88 mmol, 5.82 ml | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 11.9 mmol, 2.07 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
product | ethyl 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate | 1.26 g, 89.3% | CN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)OCC)=N1)C | C16H19N7O3
